US04616087
The compound 3,6-bis(cyclohexylthio)-2-pyridinecarboxylic acid, m.p. 100°-101° C. was prepared by reacting 3,6-dichloro-2-pyridinecarboxylic acid and cyclohexyl mercaptan utilizing procedures substantially as described herein.

reactant | 3,6-dichloro-2-pyridinecarboxylic acid | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
reactant | cyclohexyl mercaptan | C1(CCCCC1)S | C6H12S
product | 3,6-bis(cyclohexylthio)-2-pyridinecarboxylic acid | C1(CCCCC1)SC=1C(=NC(=CC1)SC1CCCCC1)C(=O)O | C18H25NO2S2
